US04372953
A Grignard reagent is prepared from magnesium (1.9 g), n-butyl bromide (11.2 g) and dried ether (80 ml) and a solution of 4-chlorobutyronitrile (7 g) in ether (15 ml) is added dropwise to the reagent with ice-cooling. The mixture is stirred at the same temperature for 2 hours and then at room temperature for additional 2 hours. 10% Hydrochloric acid is slowly added dropwise to the mixture with ice-cooling to decompose the product and to acidify the mixture to pH about 1. After stirring at room temperature for 1 hour, the mixture is extracted with ether. The ether layer is washed with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride and dried over magnesium sulfate. The solvent is distilled off and the residue is distilled to obtain 3-chloropropyl butyl ketone (1.6 g), b.p. 104°-106° C./30 mmHg.

reactant | magnesium | 1.9 g | [Mg] | Mg
reactant | n-butyl bromide | 11.2 g | C(CCC)Br | C4H9Br
reactant | 4-chlorobutyronitrile | 7 g | ClCCCC#N | C4H6ClN
reactant | Hydrochloric acid | Cl | ClH
reactant | ether | 15 ml | CCOCC | C4H10O
reactant | ether | 80 ml | CCOCC | C4H10O
product | 3-chloropropyl butyl ketone | 1.6 g | C(CCC)C(=O)CCCCl | C8H15ClO
